Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8]>>[N:4]#[C:5][H:9].[O:1]1[C:2]([H:8])=[C:3]=[O+:7][N-:6]1,132.282422992236
[C:1]([C:2]([O:3][H:10])=[C:4]=[O:5])([H:6])([H:7])[H:8].[H:9][H:11]>>[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8],31.085802796835395
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([O+:7]=[C-:6][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],91.0726117549057
[C:1]([C@@:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])([H:12])[H:13])([C:6](=[O:7])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],64.82197308876621
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]#[N:5])([H:12])[C:6]1=[C:7]([H:13])[H:14])([H:8])([H:9])[H:10],70.54347691890841
[C-:6]#[O+:7].[C:1]([C@@:2]([O:3][H:12])(/[C:4](=[N:5]/[H:15])[H:14])[H:11])([H:8])([H:9])[H:10].[H:13][H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],33.6024366317234
[C:4](#[N:5])[H:10].[O:1]([C@@:2]1([H:9])[C@@:3]2([H:11])[C:6]1=[C:7]2[H:12])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],43.688697993857296
[O:1]1[C:2]([H:7])=[C:3]([H:8])[O:4][C:5]1([O:6][H:9])[H:10]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],22.267948364862598
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6]([N+:3](=[N-:4])[H:9])=[O:5])[H:10])[H:8],91.2837561126489
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:12])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([O:6][H:18])[H:16]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],9.886431664369304
[C:1]([C@@:2]1([H:11])[C:4](=[O+:3][O-:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],15.452711154889997
[C:1]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9].[C:2](=[N:3][H:12])([H:10])[H:11]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],65.66096893487767
[C:1]1([H:5])([H:6])[C:2]([H:7])([H:8])[O:3][C:4]1([H:9])[H:10]>>[C:1]([C:2]([O:3][H:5])([H:7])[H:8])(=[C:4]([H:9])[H:10])[H:6],83.3304251872355
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])(/[C:5](=[C:6](\[O:7][H:19])[H:18])[H:15])[H:11])([H:8])([H:9])[H:10].[H:16][H:17]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],76.43787702942521
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[H:9][H:12].[O:1]([C:2]1=[C:4]([O:5][C:6](=[O:7])[H:13])[C:3]1([H:10])[H:11])[H:8],108.340970470445
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:7])([H:8])[H:9].[C:2]([O:3][H:11])[H:10],121.356227724317
[C:1]([C@:2]1([H:11])[C+:3]=[C:4]=[C-:5][N:6]1[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],26.421666043181006
[C:1]([C:5]#[C:6][H:11])([H:7])([H:8])[H:9].[N:2](=[C:3]=[O:4])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9],96.58373084459716
[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[c:7]1[H:13])([H:8])[H:9]>>[N:1]([C:2]1=[C:7]([H:13])[C@@:5]2([O:6][H:12])[C@:3]1([H:10])[N:4]2[H:11])([H:8])[H:9],74.170729851494
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[N:3](=[C:4]([H:9])[H:10])[H:8].[O:1]=[C:2]([C:5]#[N:6])[H:7],75.3209216066678
[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C+:2](=[C:4]=[N-:5])[H:9].[C:1]([O:3][H:10])([H:6])([H:7])[H:8],101.85830172515499
[O:1]([C@@:2]1([H:9])[C:6]([C:4]2=[N:5][C:3]2([H:10])[H:11])=[C:7]1[H:12])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],52.435060289612494
[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:10])([H:12])[H:13],73.6417021268679
[C:1]([H:8])([H:9])([H:10])[H:15].[C:2](=[O:3])([C:4]([N:5]([H:11])[H:14])([H:12])[H:13])[C:6]#[N:7]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],76.22717527429236
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[O:1]([C@@:3]1([C:2]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:7],84.7135025477172
